US07960394B2
2-{4-[{1-Cyclopentylpiperidin-4-yl)oxy]-2-fluorophenyl}-3-methylquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 85 but using anthranilic acid, methylamine, 2-fluoro-4-methoxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and cyclopentanone.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | methylamine | CN | CH5N
reactant | 2-fluoro-4-methoxybenzaldehyde | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 2-{4-[{1-Cyclopentylpiperidin-4-yl)oxy]-2-fluorophenyl}-3-methylquinazolin-4(3H)-one | C1(CCCC1)N1CCC(CC1)OC1=CC(=C(C=C1)C1=NC2=CC=CC=C2C(N1C)=O)F | C25H28FN3O2
